US08703096B2
5-methoxypyridin-2-amine (P5).
Method a: 2-Amino-4-bromopyridine (0.10 g; 0.58 mmol), sodium methoxide (0.16 g; 2.9 mmol) and copper powder nanosized activated (0.11 g; 1.74 mmol) were introduced in a screw cap vial (Pyrex glass) together with 2.0 mL of anhydrous MeOH and a stirrer bar. The vial was closed and put in an oil bath at 135° C. and stirred for 14 h. The mixture was cooled, diluted with MeOH (5.0 mL) and filtered through an SPE silica gel cartridge and the product eluted with AcOEt. The fractions were collected and evaporated obtaining a crude of 92 mg of product which was further purified by FCC (DCM/AcOEt=1:1) to give 26 mg (yield 36%) of the title compound as brown oil. Method b: 2-Amino-4-bromopyridine (0.10 g; 0.58 mmol), sodium methoxide (0.16 g; 2.9 mmol) and copper powder nanosized activated (0.11 g; 1.74 mmol) were introduced in a microwave glass tube with 1.5 mL of anhydrous DMF and sealed. The tube was introduced in the microwave cavity and heated for 30 min at 140° C. (140 C30 M75 W300 Psi). Although DMF is a high boiling solvent, high pressure was observed, probably caused by the partial methanolysis of the DMF resulting in low boiling products such as methyl formate and dimethylamine. The mixture was diluted with 10 mL of 2 M NH4Cl solution and extracted 3 times with AcOEt. The organic phase was washed 2 times with 2 M NH4Cl solution and 1 time with water to remove the remaining DMF, dried on NaSO4, and filtered. After the solvent was removed, the crude product was purified by FCC (AcOEt) to afford 12 mg (yield 17%) of the title compound as brown oil. 1H NMR (270 MHz; CDCl3), δ 7.74 (1H, d, 3JHH=3.0 Hz), 7.06 (1H, dd, 3JHH=9.0 Hz, 4JHH=3.0 Hz), 6.45 (1H, d, 3JHH=9.0 Hz), 3.95 (2H, bs, NH2), 3.74 (3H, s, OCH3); m/z (EI-MS): 124 (M+), 109 ([M−CH3]+).

reactant | 2-Amino-4-bromopyridine | 0.58 mmol, 0.10 g | NC1=NC=CC(=C1)Br | C5H5BrN2
reactant | sodium methoxide | 2.9 mmol, 0.16 g | C[O-].[Na+]
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | methyl formate | C(=O)OC | C2H4O2
reactant | dimethylamine | CNC | C2H7N
solvent | NH4Cl | 2 M, 10 mL | [NH4+].[Cl-]
catalyst | copper | [Cu] | Cu
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 5-methoxypyridin-2-amine | 12 mg, yield 17% | COC=1C=CC(=NC1)N | C6H8N2O
